US07223862B2
To a mixture of 20.0 g of 2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenol, 10.8 g of dimethyl chloromalonate and 120 ml of N,N-dimethylformamide, 9.79 g of potassium carbonate were added and stirred at 70° C. for 1.5 hours. After the reaction mixture was cooled to room temperature, it was poured into a mixture of hydrochloric acid and ice and extracted with ethyl acetate. The organic layer was washed with 10% aqueous potassium carbonate solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated. The residue was washed with methanol and diisopropyl ether to give 21.6 g of dimethyl [2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]malonate.

reactant | 2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenol | 20.0 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O | C12H7ClF4N2O3
reactant | dimethyl chloromalonate | 10.8 g | ClC(C(=O)OC)C(=O)OC | C5H7ClO4
reactant | potassium carbonate | 9.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | dimethyl [2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]malonate | 21.6 g | ClC1=C(OC(C(=O)OC)C(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H13ClF4N2O7
